US08067445B2
Step 1: (2′-Ethylaminomethyl-4′ trifluoromethyl-biphenyl-3-yl)-acetic acid
{2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid (0.16 g, 0.34 mmol) in EtOH (7 mL) was treated with 10% palladium on carbon (0.072 g), and the reaction was stirred under a balloon of H2 for 3 hours to give the title compound.

reactant | {2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-trifluoromethyl-biphenyl-3-yl}-acetic acid | 0.34 mmol, 0.16 g | C(C1=CC=CC=C1)OC(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1)CC(=O)O | C26H24F3NO4
solvent | EtOH | 7 mL | CCO | C2H6O
catalyst | palladium on carbon | 0.072 g | [Pd] | Pd
product | (2′-Ethylaminomethyl-4′ trifluoromethyl-biphenyl-3-yl)-acetic acid | C(C)NCC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1)CC(=O)O | C18H18F3NO2
